US06528525B1
Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-isopropylphenoxy)-2-methylpropionate
In a similar manner to that described in Reference example 25, a reaction was carried out using ethyl 3-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)-2-methylpropionate (4.85 g), which is the product of Reference example 9(b), t-butyl 2-methanesulfonyloxy-ethylcarbamate (8.47 g) and potassium carbonate (9.78 g) and the reaction mixture was treated to afford the title compound (6.23 g) as a colorless oil.

reactant | ethyl 3-(4-hydroxyphenyl)-2-(4-isopropylphenoxy)-2-methylpropionate | 4.85 g | OC1=CC=C(C=C1)CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C(C)C | C21H26O4
reactant | t-butyl 2-methanesulfonyloxy-ethylcarbamate | 8.47 g | CS(=O)(=O)OCCNC(OC(C)(C)C)=O | C8H17NO5S
reactant | potassium carbonate | 9.78 g | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-isopropylphenoxy)-2-methylpropionate | 6.23 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C(C)C | C28H39NO6
